US07745484B2
Step 4: 7-Hydroxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one
7-Methoxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one (2.25 g, 11.0 mmol)was dissolved in 30 ml CH2Cl2 and cooled to −78° C. Boron tribromide (25.000 ml, 25.0 mmol) was added and the reaction was stirred for 6 h. The temperature was elevated to 0° C. during this time. The mixture was pored into ice and extracted 3×EtOAc (300 ml each). The combined organic extracts were dried over MgSO4 and evaporated. Glass col. Chrom. gave 7-hydroxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one as a yellow solid. MS m/z: 191.1 (M+1).

reactant | 7-Methoxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 11.0 mmol, 2.25 g | COC1=CC=C2CC(CC(C2=C1)=O)(C)C | C13H16O2
reactant | Boron tribromide | 25.0 mmol, 25.000 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-Hydroxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one | OC1=CC=C2CC(CC(C2=C1)=O)(C)C | C12H14O2
